US05536727
Preparation of 17β-(4-aminophenoxy)-4-methyl-5α-4-azaandrostan-3-one hydrochloride
17β-(4-nitrophenoxy)-4-methyl-5α-4-azaandrostan-3-one (938 mg, 2.2 mmole) in MeOH (70 ml) was hydrogenated at 40 psi in the presence of PtO2 (400 mg) for 90 mins. To the resulting mixture was added 5% conc. HCl in absolute ethanol (4 ml) under N2, and then the mixture was filtered through a pad of celite. The filtrate was concentrated, vacuum dried, and then triturated with CH2Cl2 -hexane to give the title product, mp. 307°-310° C.

reactant | 17β-(4-nitrophenoxy)-4-methyl-5α-4-azaandrostan-3-one | 2.2 mmole, 938 mg | [N+](=O)([O-])C1=CC=C(O[C@@H]2[C@]3(C)[C@@H](CC2)[C@@H]2CC[C@H]4N(C(CC[C@]4(C)[C@H]2CC3)=O)C)C=C1 | C25H34N2O4
reactant | HCl | Cl | ClH
solvent | MeOH | 70 ml | CO | CH4O
solvent | ethanol | 4 ml | C(C)O | C2H6O
catalyst | PtO2 | 400 mg | O=[Pt]=O
product | 17β-(4-aminophenoxy)-4-methyl-5α-4-azaandrostan-3-one hydrochloride | Cl.NC1=CC=C(O[C@@H]2[C@]3(C)[C@@H](CC2)[C@@H]2CC[C@H]4N(C(CC[C@]4(C)[C@H]2CC3)=O)C)C=C1 | InChI=1S/C25H36N2O2.ClH/c1-24-15-13-23(28)27(3)21(24)10-8-18-19-9-11-22(25(19,2)14-12-20(18)24)29-17-6-4-16(26)5-7-17;/h4-7,18-22H,8-15,26H2,1-3H3;1H/t18-,19-,20-,21+,22-,24+,25-;/m0./s1
